US09255097B2
Preparation 17A: 2,6-dichloro-3-(3-methoxy-propyl)-3H-pyrimidin-4-one
To a solution of 2,6-dichloro-3H-pyrimidin-4-one (600 mg, 3.65 mmol) in DMF (10 mL) was added K2CO3 (1.0 g, 7.3 mmol) and the mixture was stirred at RT for 10 min. 1-Bromo-3-methoxy-propane (101 mg, 7.3 mmol) was then added dropwise at 0° C., and the mixture was stirred at RT overnight. DMF was concentrated in vacuo, and the residue was purified by silica chromatography to give 400 mg of the title compound (47%). [M+H] Calc'd for; Calc'd for C8H10Cl2N2O2, 237. Found, 237.

reactant | 2,6-dichloro-3H-pyrimidin-4-one | 3.65 mmol, 600 mg | ClC1=NC(=CC(N1)=O)Cl | C4H2Cl2N2O
reactant | K2CO3 | 7.3 mmol, 1.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-Bromo-3-methoxy-propane | 7.3 mmol, 101 mg | BrCCCOC | C4H9BrO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2,6-dichloro-3-(3-methoxy-propyl)-3H-pyrimidin-4-one | 400 mg, 47% | ClC1=NC(=CC(N1CCCOC)=O)Cl | C8H10Cl2N2O2
